US08283353B2
ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a mixture of 4′-{[4-(4-hydroxycyclohexyl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (2.14 g), rhodium(II) acetate (dimer) (88 mg) and toluene (20 mL) was added dropwise ethyl diazoacetate (571 mg) under an argon atmosphere at 80° C., and the mixture was stirred at 80° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/20→65/35 (volume ratio)] to give the title compound as a colorless amorphous compound (695 mg, 28%).

reactant | 4′-{[4-(4-hydroxycyclohexyl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2.14 g | OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C(F)(F)F | C29H28F3N5O2
reactant | ethyl diazoacetate | 571 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium(II) acetate | 88 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C(F)(F)F)C2CCC(CC2)OCC(=O)OCC)=O | C33H34F3N5O4
